US09278950B2
Step 2. 3-Amino-N-{4-[(3R,4S,5S)-3-amino-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}-7-(1-methylpiperidin-4-yl)quinoline-2-carboxamide
To a solution of benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-3-yl]carbamate (4.7 mg, 0.006 mmol) in MeOH (0.24 mL) and THF (0.24 mL), 10% Pd on carbon (2.4 mg) was added. The reaction mixture was deoxygenated under reduced pressure and hydrogen was introduced via a balloon. The reaction mixture was stirred at room temperature under hydrogen for 2 h. The mixture was filtered and concentrated under reduced pressure to give an intermediate. The intermediate was treated with 4.0 M HCl in dioxane (0.061 mL, 0.24 mmol) and stirred at room temperature for 30 min. The solution was concentrated under reduced pressure. The residue resulting residue was diluted with MeOH and NH4OH, filtered and purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the title compound as a yellow powder (2.0 mg, 61%). LCMS calc. for C29H37N10O (M+H)+: m/z=541.3. Found: 541.3.

reactant | benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-3-yl]carbamate | 0.006 mmol, 4.7 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1N1N=NC=C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=1CCN(CC1)C | C42H48N10O5
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 0.24 mmol, 0.061 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 0.24 mL | CO | CH4O
solvent | THF | 0.24 mL | C1CCOC1 | C4H8O
solvent | NH4OH | [NH4+].[OH-]
catalyst | Pd on carbon | 2.4 mg | [Pd] | Pd
product | 3-Amino-N-{4-[(3R,4S,5S)-3-amino-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}-7-(1-methylpiperidin-4-yl)quinoline-2-carboxamide | 2.0 mg, 61% | NC=1C(=NC2=CC(=CC=C2C1)C1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)N1N=NC=C1)N | C29H36N10O
